US05665718
A solution of 19.6 g (98.4 mmol) of 5,6-difluoro-2,4-dihydro-1H-3,1-benzoxazine-2,4-dione and 9.95 g (98.4 mmol) of L-azetidine-2-carboxylic acid in 125 ml of dimethylformamide and 25 ml of acetic acid was stirred at 120° for 16 hours. The brown solution was evaporated and the brown residue obtained was crystallized from ethanol. There were obtained 16 g (68%) of (S)-5,6-difluoro-1,2,4,9,10,10a-hexahydro-azeto[2,1-c][1,4]benzodiazepine-4,10-dione as colourless needles of m.p. >250°.

reactant | 5,6-difluoro-2,4-dihydro-1H-3,1-benzoxazine-2,4-dione | 98.4 mmol, 19.6 g | FC1=C(C=CC2=C1C(OC(N2)=O)=O)F | C8H3F2NO3
reactant | L-azetidine-2-carboxylic acid | 98.4 mmol, 9.95 g | C1CN[C@@H]1C(=O)O | C4H7NO2
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | (S)-5,6-difluoro-1,2,4,9,10,10a-hexahydro-azeto[2,1-c][1,4]benzodiazepine-4,10-dione | 16 g, 68% | FC1=C(C=CC2=C1C(N1[C@H](C(N2)=O)CC1)=O)F | C11H8F2N2O2
